US05110956
3-(1,3-Benzodioxol-5-yl)propyl nonyl disulfide
6.2 g of the title compound was prepared from 10 g of 3-(1,3-benzodioxol-5-yl)propanethiol and 5 g of nonyl mercaptan as a colorless oil according to the same procedure as that described in Example 1.

reactant | 3-(1,3-benzodioxol-5-yl)propanethiol | 10 g | O1COC2=C1C=CC(=C2)CCCS | C10H12O2S
reactant | nonyl mercaptan | 5 g | C(CCCCCCCC)S | C9H20S
product | 3-(1,3-Benzodioxol-5-yl)propyl nonyl disulfide | 6.2 g | C(CCCCCCCC)SSCCCC1=CC2=C(OCO2)C=C1 | C19H30O2S2
